US04065584
a. Preparation of 1-phenylthio-4-chloro-butane
11 g (0.1 mol) of thiophenol and 18.9 g (0.11 mol) of 1-bromo-4-chlorobutane are mixed at ordinary temperature in a 250 ml flask equipped with a condenser, a thermometer and a dropping funnel. 100 ml of ethanol are added, the mixture is heated to 40° C and 20 ml of 5N NaOH are then added dropwise at this temperature. The speed of addition of the sodium hydroxide is regulated so as to have a reaction medium of neutral pH. When the addition is complete, the reactants are left in contact at 40° C for 3 hours, the alcohol is then evaporated, the oil is extracted with ether and the ether solution is washed with 2N NaOH and then with water. Thereafter the organic phase is dried over MgSO4, the ether is evaporated and a yellow oil ia obtained, which crystallises from ethanol. (18.4 g; 0.092 mol; yield: about 92%).

reactant | thiophenol | 0.1 mol, 11 g | C1(=CC=CC=C1)S | C6H6S
reactant | 1-bromo-4-chlorobutane | 0.11 mol, 18.9 g | BrCCCCCl | C4H8BrCl
reactant | NaOH | 5N, 20 ml | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-phenylthio-4-chloro-butane | yield: about 92% | C1(=CC=CC=C1)SCCCCCl | C10H13ClS
